US07700638B2
3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)-1-(pyrollidin-1-yl)prop-2-en-1-one
This was prepared from 3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester in a similar manner to 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)prop-2-en-1-one. The oily residue was purified by preparative LCMS to afford the title compound as a white solid (7.3 mg, 7%), m/z 386.0 (M+H)+.

reactant | 3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester | COC(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C18H13F3N2O2
reactant | 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)prop-2-en-1-one | CN1CCN(CC1)C(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C22H21F3N4O
product | 3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)-1-(pyrollidin-1-yl)prop-2-en-1-one | 7.3 mg, 7% | C1(=CC=CC=C1)N1C=NC2=C1C(=CC(=C2)C(F)(F)F)C=CC(=O)N2CCCC2 | C21H18F3N3O
